US09193669B2
A mixture of 2,2,2-trifluoro-N-(3-(3-nitrophenyl)allyl)acetamide (1.0 g, 3.6 mmol) and 3-phenylpropanal (0.48 g, 3.6 mmol) in EtOAc was degassed and saturated with argon. 10% Pd/C (500 mg) was added to this solution and the resulting mixture was stirred under H2 at 1 atm for 16 hrs, filtered through Celite, and concentrated under reduced pressure. Purification by flash chromatography (40% to 50% EtOAc—hexanes gradient) gave 2,2,2-trifluoro-N-(3-(3-(3-phenylpropylamino)phenyl)propyl)acetamide as a colorless semi-solid. Yield (0.54 g, 41%). 1H NMR (400 MHz, DMSO-d6) δ 9.41 (br.s, 1H), 7.30-7.17 (m, 5H) 6.95 (t, J=7.6 Hz, 1H), 6.36-6.34 (m, 3H), 5.50 (t, J=5.6 Hz, 1H), 3.18 (q, J=6.4 Hz, 2H), 2.98 (q, J=6.4 Hz, 2H), 2.67 (t, J=8.0 Hz, 2H), 2.43 (t, J=7.6 Hz, 2H), 1.82 (quintet, J=7.6 Hz, 2H), 1.73 (quintet, J=7.6 Hz, 2H).

reactant | 2,2,2-trifluoro-N-(3-(3-nitrophenyl)allyl)acetamide | 3.6 mmol, 1.0 g | FC(C(=O)NCC=CC1=CC(=CC=C1)[N+](=O)[O-])(F)F | C11H9F3N2O3
reactant | 3-phenylpropanal | 3.6 mmol, 0.48 g | C1(=CC=CC=C1)CCC=O | C9H10O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2,2,2-trifluoro-N-(3-(3-(3-phenylpropylamino)phenyl)propyl)acetamide | FC(C(=O)NCCCC1=CC(=CC=C1)NCCCC1=CC=CC=C1)(F)F | C20H23F3N2O
